* NGSPICE simulation LAB 3 GROUP 28

* Group 28

*

.options savecurrents

.param n =1/11

*INDEPENDENT VOLTAGE SOURCE, Vs

Vs 1 0 0 sin(0 230 50 0 0 90) 





*RESISTORS

R1 4 GND 8k

R2 4 5 63.5k





*DEPENDENT CURRENT SOURCE. 

Ftransf 1 0 Etransf n





*DEPENDENT VOLTAGE SOURCE. 

Etransf 2 3 1 0 n 







*DIODES

* FULL WAVE RECTIFIER



D1 2 4 D28

D2 GND 2 D28

D3 3 4 D28

D4 GND 3 D28





*DIODES IN SERIES



D5 5 6 D28

D6 6 7 D28

D7 7 8 D28

D8 8 9 D28

D9 9 10 D28 

D10 10 11 D28

D11 11 12 D28

D12 12 13 D28

D13 13 14 D28

D14 14 15 D28

D15 15 16 D28

D16 16 17 D28

D17 17 18 D28

D18 18 19 D28

D19 19 20 D28

D20 20 21 D28

D21 21 22 D28

D22 22 23 D28

D23 23 24 D28

D24 24 GND D28







*CAPACITOR. 

C1 4 GND 0.0025



*START OF THE SIMULATION





.model D28 D

.op

.end

.control



*makes plots in color

set hcopypscolor=0

set color0= rgb:f/f/f ;

set color1=rgb:1/1/1;

set color2=red;

set color3=green;

set color4=blue;

set color5= orange;

set color5= yellow;



op







echo ""

echo  "TRANSIENT ANALYSIS"

echo ""

tran 0.0002 205m 5m



echo "op1_TAB"

print maximum(v(4))-minimum(v(4))

print mean(v(4))

echo "op1_END"



echo "op2_TAB"

print maximum(v(5))-minimum(v(5))

print mean(v(5))

echo "op2_END"



hardcopy sim3.ps {v(2)-v(3)} {v(4)} {v(5)} {v(5)-12}

echo sim3_FIG


hardcopy sim31.ps {v(4)-12} 

echo sim31_FIG


hardcopy sim32.ps {v(4)} 

echo sim32_FIG


hardcopy sim33.ps {v(5)} 

echo sim33_FIG





.endc

